US04612309
Step 1. 4-Hydroxy-8-methoxy-2,3-dihydrobenzopyran
A solution of 8-methoxy-4-benzopyranone (31.6 g), triethylamine (4.9 ml) and 10% palladium on carbon (3.1 g) in absolute ethanol (1.7 l) is stirred under an atmosphere of hydrogen (P=52 lbs.) overnight. The resulting solid is filtered, washed with diethyl ether and evaporated in vacuo yielding the desired product as a solid.

reactant | 8-methoxy-4-benzopyranone | 31.6 g | COC1=CC=CC=2C(C=COC21)=O | C10H8O3
reactant | triethylamine | 4.9 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 3.1 g | [Pd] | Pd
solvent | ethanol | 1.7 l | C(C)O | C2H6O
product | 4-Hydroxy-8-methoxy-2,3-dihydrobenzopyran | OC1CCOC2=C1C=CC=C2OC | C10H12O3
